US05691376
4-Chloro-3'-Cyclopentyloxy-4'-methoxy-biphenyl
Following the procedure of Example 1, 4-chloro-phenylboronic acid and 3-cyclopentyloxy-4-methoxybromobenzene yielded 92% of the title compound as white needles: mp 94°-95° C.

reactant | 4-chloro-phenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | 3-cyclopentyloxy-4-methoxybromobenzene | C1(CCCC1)OC=1C=C(C=CC1OC)Br | C12H15BrO2
product | 4-Chloro-3'-Cyclopentyloxy-4'-methoxy-biphenyl | 92% | ClC1=CC=C(C=C1)C1=CC(=C(C=C1)OC)OC1CCCC1 | C18H19ClO2
